2196-01-08 06:31:00 Physician Resident Progress Note
Chief Complaint: 50M with history of HTN, HL admitted after elective
   cath with LMCA disease and 3VD, found to have a given LV apical clot on
   heparin, now s/p aborted CABG due to concern for reversibility of his
   severe systolic dysfunction complicated by hypotension and need for
   continued respiratory support.
   24 Hour Events:
   Dr. [**First Name (STitle) **] and Dr. [**Last Name (STitle) 7145**] evaluated patient - tomorrow will do PCI,
   tandemheart, keep intubated overnight, wean DA, consider adding small
   dose beta blocker once off pressors if making good urine. If patient
   doesn't do well after PCI consider transferring to center that does
   transplant.
 INVASIVE VENTILATION - START [**2196-1-7**] 09:02 AM
 PA CATHETER - START [**2196-1-7**] 10:00 AM
 ARTERIAL LINE - START [**2196-1-7**] 10:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-1-7**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-8**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.5
C (99.5
   HR: 97 (64 - 97) bpm
   BP: 105/65(76) {85/48(61) - 120/77(90)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 6 (5 - 22)mmHg
   PAP: (35 mmHg) / (18 mmHg)
   CO/CI (Fick): (7.1 L/min) / (3.2 L/min/m2)
   SvO2: 73%
   Mixed Venous O2% Sat: 73 - 77
   Total In:
                                                                  2,564 mL
                                                                    531 mL
   PO:
   TF:
   IVF:
                                                                  1,164 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,470 mL
   Urine:
                                                                  4,190 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,626 mL
                                                                   -938 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.41/44/84.[**Numeric Identifier 1000**]/26/2
   Ve: 10 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   179 K/uL
   13.4 g/dL
   92 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.0 mEq/L
   15 mg/dL
   107 mEq/L
   142 mEq/L
   41.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2196-1-7**]  10:55 AM
                             [**2196-1-7**]  11:11 AM
                             [**2196-1-7**]  04:50 PM
                             [**2196-1-8**]  03:04 AM
                             [**2196-1-8**]  03:21 AM
   WBC
   9.8
   9.1
   Hct
   42.3
   41.3
   Plt
   207
   179
   Cr
   1.2
   1.1
   TCO2
   24
   25
   29
   Glucose
   99
   95
   92
   Other labs: PT / PTT / INR:15.2/83.0/1.3, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: In comparison with the study of [**1-2**], there has been
   placement of
   an endotracheal tube with its tip approximately 5 cm above the carina.
   Right IJ Swan-Ganz catheter tip extends to the right pulmonary artery.
   Nasogastric
   tube extends to the upper stomach, where it passes the lower border of
   the
   image.
   Assessment and Plan
   50-year-old male with HTN, HL admitted after an elective cath with LMCA
   disease and 3VD, found to have a given LV apical clot on heparin, now
   s/p aborted CABG due to concern for reversibility of his severe
   systolic dysfunction complicated by hypotension and need for continued
   respiratory support.
   #. Cardiomyopathy: severe chronic systolic heart failure. TTE shows
   LVEF of [**9-2**]% with LV diameter of 7cm. Large apical thrombus noted.
   [**Month (only) 51**] be secondary to severe CAD but also has history of EtOH abuse. Now
   hypotensive as well in setting of sedation for intubation.
   - PCI with tandemheart placement today
   - may need transfer to heart transplant center if doesn't improve
   - heparin gtt for thrombus
   - I/Os, daily weights
   - beta blocker when tolerates
   - wean dopamine as tolerated
   #. CAD: LMCA and 3VD seen on cath [**1-1**] with right radial approach.
   History of angina upon exertion, increasing in frequency.
   - continue aspirin
   - continue simvastatin
   - add metoprolol as tolerated
   - on heparin gtt
   - continue tele
   #. Respiratory: patient intubated in preparation for CABG. Left
   intubated overnight because going to cath lab for procedure today.
   - sedation while intubated
   - reassess status after todays procedure
   #. Hyperlipidemia: Continue Simvastatin.
    #. Depression: Holding bupriopion while intubated.  Can restart when
   extubated.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PA Catheter - [**2196-1-7**] 10:00 AM
   Arterial Line - [**2196-1-7**] 10:00 AM
   16 Gauge - [**2196-1-7**] 10:00 AM
   20 Gauge - [**2196-1-7**] 10:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2195-1-8**] I saw, examined and was physically present with the resident
   / fellow for the key portions of the services provided. I agree with
   the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Last Name (NamePattern1) **], MD
   on:[**2196-1-10**] 09:02 ------

2196-01-09 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ischemic heart failure
   24 Hour Events:
   -PCI today: Tandem heart placed w/21F cannula given LV thrombus.  15F
   sheath in right femoral artery.  Diagonal branch stented with Promus
   DES.  IVUS showed full expansion of diagnoal branch.  Left main
   received a DES as well.  RCA was crossed, but not intraluminally.
   Tandem heart was removed and follow-up echocardiogram did not show a
   pericardial effusion.  Echo showed severely reduced left ventricular
   function.  Patient received 130mL of contrast.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-1-8**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-9**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 89 (76 - 100) bpm
   BP: 114/70(84) {89/53(64) - 116/81(208)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 1 (-4 - 11)mmHg
   PAP: (38 mmHg) / (19 mmHg)
   CO/CI (Fick): (9.4 L/min) / (4.3 L/min/m2)
   SvO2: 76%
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                  4,330 mL
                                                                    281 mL
   PO:
   TF:
   IVF:
                                                                  4,330 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  4,155 mL
                                                                    550 mL
   Urine:
                                                                  4,155 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 610 (550 - 850) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.36/47/96.[**Numeric Identifier 181**]/27/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, marked
   secretions present.
   Cardiovascular: Unable to assess due to rhonchi
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: present), (Left DP pulse: present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   153 K/uL
   12.7 g/dL
   91 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   38.2 %
   11.8 K/uL
        [image002.jpg]
                             [**2196-1-7**]  04:50 PM
                             [**2196-1-8**]  03:04 AM
                             [**2196-1-8**]  03:21 AM
                             [**2196-1-8**]  11:18 AM
                             [**2196-1-8**]  02:38 PM
                             [**2196-1-8**]  02:40 PM
                             [**2196-1-8**]  04:58 PM
                             [**2196-1-8**]  05:18 PM
                             [**2196-1-9**]  02:15 AM
                             [**2196-1-9**]  02:54 AM
   WBC
   9.1
   11.8
   Hct
   41.3
   41
   35
   38.2
   Plt
   179
   168
   153
   Cr
   1.1
   0.9
   TCO2
   25
   29
   26
   21
   28
   28
   Glucose
   95
   92
   87
   91
   Other labs: PT / PTT / INR:15.2/86.1/1.3, CK / CKMB / Troponin-T:63//,
   Lactic Acid:0.5 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Imaging: TTE [**1-8**]: Overall left ventricular systolic function is
   severely depressed. A moderate sized thrombus is seen in the left
   ventricle. with depressed free wall contractility. There is a very
   small pericardial effusion (posterior only). There are no
   echocardiographic signs of tamponade.
   Compared with the prior study (images reviewed) of [**2196-1-8**], an LV
   apical thrombus is now well seen. A very small posterior pericardial
   effusion is now seen (image quality very poor on prior study so cannot
   determine if it was already present or is new).
   Assessment and Plan
   50-year-old male with HTN, HL admitted after an elective cath with LMCA
   disease and 3VD, found to have a given LV apical clot on heparin, now
   s/p aborted CABG due to concern for reversibility of his severe
   systolic dysfunction complicated by hypotension and need for continued
   respiratory support.
   #. Cardiomyopathy: severe chronic systolic heart failure. TTE shows
   LVEF of [**9-2**]% with LV diameter of 7cm. Large apical thrombus noted.
   [**Month (only) 51**] be secondary to severe CAD but also has history of EtOH abuse. Now
   hypotensive as well in setting of sedation for intubation.  S/p PCI
   with tandem heart support on [**1-9**].  Now off pressors.
   - heparin gtt for thrombus
   - I/Os, daily weights
   - captopril 6.25 tid, low dose metoprolol starting today.
   - electrophysiology consultation for placement of ICD.
   #. CAD: LMCA and 3VD seen on cath [**1-1**] with right radial approach.
   History of angina upon exertion, increasing in frequency. S/p DES to
   diag and left main.
   - continue aspirin
   - continue simvastatin
   - clopidogrel 75mg daily.
   - on heparin gtt
   - continue tele
   #. Respiratory: patient intubated in preparation for CABG. Left
   intubated overnight because going to cath lab for procedure today.
   Doing well on spontaneous breathing trial.
   - extubate today.
   #. Hyperlipidemia: Continue Simvastatin.
    #. Depression: Holding bupriopion while intubated.  Can restart when
   extubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2196-1-7**] 10:00 AM
   Arterial Line - [**2196-1-7**] 10:00 AM
   16 Gauge - [**2196-1-7**] 10:00 AM
   20 Gauge - [**2196-1-7**] 10:38 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine while intubated.
   VAP:  extubate today.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the progress note history and physical examination on
   [**2196-1-9**] by Dr. [**Last Name (STitle) **] [**Last Name (STitle) 4560**] above.  I was present during the
   pertinent portions of the physical examination today.   I concur with
   the diagnostic evaluation and treatment plan outlined above.
   Approximately 50% allocated time involved coordination of care.
   MEDICAL DECISION MAKING.  This 51 year old man presented with dyspnea
   and cardiac catheterization demonstrated three vessel coronary artery
   disease.  The LVEF was 18%.  During induction for CABG, he was noted to
   have severe right and left ventricular dysfunction.   Surgery was
   aborted.  After discussions with Dr. [**First Name (STitle) **] re: timing of PCI and
   transplantation, the patient underwent PCI with DES to the left main
   and diagonal branches with Tandem Heart support in an effort to lessen
   the amount of hypernating myocardium and improve his LV function.   He
   was intubated post operatively for ventilatory support prior to the PCI
   procedure.  Following PCI, he has done well and was extubated this
   morning.   He has remained hemodynamically stable off pressors.
   ASSESSMENT:  3 Vessel Coronary Artery Disease
                                 s/p DES to the left main and diagonal
   branches
                               Cardiac transplantation candidate
   PLAN:   Implement ACE-[**Last Name (un) **] and beta blockers for cardioprotection and
   severely depressed LV function
                 Consider AICD placement
                 IV Heparin to warfarin transition for dilated
   cardiomyopathy and apical thrombus
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD  [**Telephone/Fax (1) 7286**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2196-1-9**] 15:23 ------

2196-01-10 06:24:00 Physician Resident Progress Note
Chief Complaint: 50-year-old male with HTN, HL admitted after an
   elective cath with LMCA disease and 3VD, found to have a given LV
   apical clot on heparin, now s/p aborted CABG due to concern for
   reversibility of his severe systolic dysfunction complicated by
   hypotension and need for continued respiratory support.
   24 Hour Events:
   - EP consult for ICD placement vs jacket in setting of EF<35%  (EP will
   schedule him for ICD placement on Monday [**2196-1-11**].  NPO after Sunday
   midnight.  Discussed plan with Dr. [**Last Name (STitle) 5152**], EP attending.)
   - Patient successfully extubated.  R IJ swan transducer removed.
   - Began Captopril 6.25mg TID and Metoprolol 12.5mg [**Hospital1 7**].
   - looked great all afternoon and evening
   - generalized discomfort, APAP didnt work, so gave him ultram
   - increased metoprolol to 25mg at night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-10**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.8
   HR: 76 (75 - 119) bpm
   BP: 110/66(79) {92/57(68) - 136/109(181)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.9 kg (admission): 101 kg
   Height: 71 Inch
    CVP: -9 (-11 - 4)mmHg
   PAP: (25 mmHg) / (6 mmHg)
   Total In:
                                                                  1,131 mL
                                                                    379 mL
   PO:
                                                                    290 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    841 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    310 mL
   Urine:
                                                                  1,940 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -809 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 747 (747 - 747) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 91%
   ABG: ///28/
   Ve: 18.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No murmur rubs or gallops
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear :)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   136 K/uL
   11.1 g/dL
   109 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   18 mg/dL
   104 mEq/L
   140 mEq/L
   34.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2196-1-8**]  03:21 AM
                             [**2196-1-8**]  11:18 AM
                             [**2196-1-8**]  02:38 PM
                             [**2196-1-8**]  02:40 PM
                             [**2196-1-8**]  04:58 PM
                             [**2196-1-8**]  05:18 PM
                             [**2196-1-9**]  02:15 AM
                             [**2196-1-9**]  02:54 AM
                             [**2196-1-9**]  10:11 AM
                             [**2196-1-10**]  04:31 AM
   WBC
   11.8
   10.9
   Hct
   41
   35
   38.2
   38.2
   34.2
   Plt
   168
   153
   160
   136
   Cr
   0.9
   1.0
   1.1
   TCO2
   29
   26
   21
   28
   28
   Glucose
   92
   87
   91
   109
   Other labs: PT / PTT / INR:16.1/121.3/1.4, CK / CKMB / Troponin-T:50//,
   Lactic Acid:0.5 mmol/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: The lungs remain clear except for minimal streaky density
   at the left base
   consistent with subsegmental atelectasis. The heart and mediastinal
   structures are unchanged. An endotracheal tube, nasogastric tube, and
   Swan-Ganz catheter remain in place. IMPRESSION: No significant change.
   Assessment and Plan
   50-year-old male with HTN, HL admitted after an elective cath with LMCA
   disease and 3VD, found to have a given LV apical clot on heparin, now
   s/p aborted CABG due to concern for reversibility of his severe
   systolic dysfunction complicated by hypotension and need for continued
   respiratory support.
   #. Cardiomyopathy: severe chronic systolic heart failure. TTE shows
   LVEF of [**9-2**]% with LV diameter of 7cm. Large apical thrombus noted.
   [**Month (only) 51**] be secondary to severe CAD but also has history of EtOH abuse. Now
   hypotensive as well in setting of sedation for intubation.  S/p PCI
   with tandem heart support on [**1-9**].  Now off pressors.
   - heparin gtt for thrombus
   - I/Os, daily weights
   - captopril 6.25 tid, low dose metoprolol starting today.
   - NPO p MN - possible pacemaker placement
   #. Fever: unclear etiology
   - cxr
   - UA
   - blood cx
   - if spikes d/c cordis
   #. CAD: LMCA and 3VD seen on cath [**1-1**] with right radial approach.
   History of angina upon exertion, increasing in frequency. S/p DES to
   diag and left main.
   - continue aspirin
   - continue simvastatin
   - clopidogrel 75mg daily.
   - on heparin gtt
   - continue tele
   #. Respiratory: patient intubated in preparation for CABG. Left
   intubated overnight because going to cath lab for procedure today.
   Doing well on spontaneous breathing trial.
   - patient extubated
   - follow I/O as above
   #. Hyperlipidemia: Continue Simvastatin.
    #. Depression: restart buproprion
   ICU Care
   Nutrition:
   Comments: NPO p MN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PA Catheter - [**2196-1-7**] 10:00 AM
   Arterial Line - [**2196-1-7**] 10:00 AM
   16 Gauge - [**2196-1-7**] 10:00 AM
   20 Gauge - [**2196-1-7**] 10:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
 consider call out
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2196-1-10**], I examined and was physically present with the resident /
   fellow for the key portions of the services provided. I agree with the
   above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Last Name (NamePattern1) **], MD
   on:[**2196-1-11**] 08:31 ------

2196-01-11 05:59:00 Physician Resident Progress Note
Chief Complaint: 50-year-old male with HTN, HL admitted after an
   elective cath with LMCA disease and 3VD, found to have a given LV
   apical clot on heparin, now s/p aborted CABG due to concern for
   reversibility of his severe systolic dysfunction complicated by
   hypotension, polymorphic VT, scheduled for ICD placement.
   24 Hour Events:
   - polymorphic VT - around a minute run, lost consciousness, converted
   prior to shock, unclear if lost pulses
   - CXR, cultures for fever
 ARTERIAL LINE - STOP [**2196-1-10**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-11**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 79 (69 - 97) bpm
   BP: 94/63(53) {80/30(53) - 112/76(82)} mmHg
   RR: 11 (10 - 27) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.9 kg (admission): 101 kg
   Height: 71 Inch
             Total In:
                                                                  1,574 mL
                                                                    111 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                    494 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    755 mL
   Urine:
                                                                  1,755 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -181 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   163 K/uL
   11.9 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   110 mEq/L
   142 mEq/L
   35.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2196-1-8**]  02:40 PM
                             [**2196-1-8**]  04:58 PM
                             [**2196-1-8**]  05:18 PM
                             [**2196-1-9**]  02:15 AM
                             [**2196-1-9**]  02:54 AM
                             [**2196-1-9**]  10:11 AM
                             [**2196-1-10**]  04:31 AM
                             [**2196-1-10**]  11:31 AM
                             [**2196-1-10**]  09:12 PM
                             [**2196-1-11**]  04:30 AM
   WBC
   11.8
   10.9
   10.3
   Hct
   35
   38.2
   38.2
   34.2
   35.3
   Plt
   168
   153
   160
   136
   163
   Cr
   0.9
   1.0
   1.1
   1.1
   0.9
   TropT
   0.08
   0.06
   TCO2
   28
   28
   Glucose
   91
   109
   190
   102
   Other labs: PT / PTT / INR:13.9/55.5/1.2, CK / CKMB /
   Troponin-T:61/3/0.06, Differential-Neuts:78.9 %, Lymph:12.5 %, Mono:7.1
   %, Eos:1.2 %, Lactic Acid:0.5 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Imaging: [**1-10**] CXR: Clear lungs.
   Microbiology: Urine cx negative
   Blood cx negative
   UA neg nitrite, leuks
   Assessment and Plan
   50-year-old male with HTN, HL admitted after an elective cath with LMCA
   disease and 3VD, found to have a given LV apical clot on heparin, now
   s/p aborted CABG due to concern for reversibility of his severe
   systolic dysfunction complicated by hypotension, polymorphic VT,
   scheduled for ICD placement.
   #. Cardiomyopathy: severe chronic systolic heart failure. TTE shows
   LVEF of [**9-2**]% with LV diameter of 7cm. Large apical thrombus noted.
   [**Month (only) 51**] be secondary to severe CAD but also has history of EtOH abuse. Now
   extubated and off pressors. S/p PCI with no need for extrended
   tandemheart.
   - heparin gtt for thrombus
   - I/Os, daily weights
   - captopril 6.25mg TID
   - metoprolol tartrate 25mg [**Hospital1 7**]
   - ICD placement - NPO p MN
   - Heparin gtt for thrombus
   - d/c cordis
   #. Polymorphic VT: lasted for roughly one minute. Patient lost
   consciousness. Unclear if lost pulse. Spontaneously reverted. QT
   slightly prolonged.
   - check EKG
   - ICD placement
   #. Fever: unclear etiology. Afebrile overnight. Currently afebrile. CXR
   and UA unrevealing.
   - f/u blood cx
   - if spikes d/c cordis
   #. CAD: LMCA and 3VD seen on cath [**1-1**] with right radial approach.
   History of angina upon exertion, increasing in frequency. S/p DES to
   diag and left main.
   - continue aspirin
   - continue simvastatin
   - clopidogrel 75mg daily.
   - on heparin gtt
   - beta blocker
   - ACEi
   - continue tele
   #. Respiratory: patient was intubated in preparation for CABG. Now
   extubated without issues.
   - follow I/O as above
   #. Hyperlipidemia: continue Simvastatin
   #. Depression: restart buproprion
   ICU Care
   Nutrition:
   Comments: NPO for procedure
   Glycemic Control:
   Lines:
   PA Catheter - [**2196-1-7**] 10:00 AM
   16 Gauge - [**2196-1-7**] 10:00 AM
   20 Gauge - [**2196-1-7**] 10:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Last Name (NamePattern1) **], MD
   on:[**2196-1-11**] 12:04 ------